US06245773B1
To a well stirred solution of (−)-5-(benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(3,4-diflurophenyl)pyrimidine (0.6 g, 1.5 mmol) and 4-(N,N-dimethylamino)pyridine (0.32 g, 2.66 mmol) in CH2Cl2 (6 mL) was added methyl chloroformate (0.2 mL, 2.66 mmol) at room temperature. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel with 3:1 Petroleum ether/EtOAC as the eluting system to obtain 0.45 g (78% yield) of (−)-5-(benzyloxycarbonyl)-4-ethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[methoxycarbonyl]pyrimidine as a colorless oil.

reactant | (−)-5-(benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(3,4-diflurophenyl)pyrimidine | 1.5 mmol, 0.6 g | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)CC | C21H20F2N2O3
reactant | methyl chloroformate | 2.66 mmol, 0.2 mL | ClC(=O)OC | C2H3ClO2
catalyst | 4-(N,N-dimethylamino)pyridine | 2.66 mmol, 0.32 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (−)-5-(benzyloxycarbonyl)-4-ethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[methoxycarbonyl]pyrimidine | 0.45 g, 78% yield | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(N(C1C1=CC(=C(C=C1)F)F)C(=O)OC)OC)CC | C23H22F2N2O5
